US07411072B2
5-(3-Trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Combine 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.5 g, 1.75 mmol) and 3-(trifluoromethyl)phenyl boronic acid (0.33 g, 1.75 mmol) using procedures essentially as described in Example 219, below. Pass through a plug of silica gel equilibrated with hexanes. Concentrate the filtrate to give the title product. Analysis for C23H17F3: Calcd: C, 78.84 H. 4.89; Found: C, 79.03.H, 5.03. HPLC (ISO80-10M)) t=16.30 min (98%).

reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.75 mmol, 0.5 g | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
reactant | 3-(trifluoromethyl)phenyl boronic acid | 1.75 mmol, 0.33 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 5-(3-Trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | FC(C=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1)(F)F | C23H17F3
